US06706732B1
2-Chlorobenzaldehyde (70.3 g) was added to a mixture of acetone (294 ml) and an aqueous solution (1.4 L) of sodium hydroxide (22.0 g) and the mixture was stirred at room temperature for 5 hours. An excessive acetone was distilled off under reduced pressure, and the residue was combined with ethyl acetate (1.4 L) and extracted. The ethyl acetate layer was washed with brine and dried (anhydrous magnesium sulfate), and then ethyl acetate was distilled off under reduced pressure to obtain a crude 2-chlorobenzalacetone (94.6 g) as a yellow oil. This oil was employed in the next step without a further purification. A 20% solution of sodium ethoxide in ethanol (170.1 g) was combined with diethyl malonate (80.1 g) at room temperature (resulting in instantaneous precipitation), and then with a solution of a crude 2-chlorobenzalacetone (94.6 g) in ethanol (40 ml). The reaction mixture was stirred with heating at 90° C. for 2 hours, allowed to stand to cool, and then cooled on ice (1 hour). The precipitate was recovered by a filtration, washed successively with ethyl acetate and isopropyl ether to obtain a crude 6-(2-chlorophenyl)-2-hydroxy-4-oxo-2-cyclohexenene-1-carboxylic acid ethyl ester monosodium salt (151.0 g) as a pale yellow powder. This powder was combined with 2M sodium hydroxide (350 ml) and stirred with heating at 100° C. for 2 hours. After allowing to stand to cool, 2.5 M sulfuric acid (350 ml) was added over a period of 15 minutes, and the mixture was stirred with heating at 100° C. for 2 hours. After allowing to stand to cool, ethyl acetate (1.4 L) was added and extracted. The ethyl acetate layer was washed with brine, dried (anhydrous magnesium sulfate), and then ethyl acetate was distilled off under reduced pressure. The precipitated crystal was washed successively with ethyl acetate-isopropyl ether (1:4) and isopropyl ether to obtain 5-(2-chlorophenyl)cyclohexane-1,3-dione (82.1 g) as a colorless crystal.

reactant | 2-Chlorobenzaldehyde | 70.3 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium hydroxide | 1.4 L, 22.0 g | [OH-].[Na+]
reactant | 2-chlorobenzalacetone | 94.6 g | ClC1=C(C=CC(C)=O)C=CC=C1 | C10H9ClO
reactant | sodium hydroxide | 2M, 350 ml | [OH-].[Na+]
reactant | sulfuric acid | 2.5 M, 350 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethyl acetate | 1.4 L | C(C)(=O)OCC | C4H8O2
solvent | acetone | 294 ml | CC(=O)C | C3H6O
product | 5-(2-chlorophenyl)cyclohexane-1,3-dione | 82.1 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
